US07754880B2
Preparation of N-[4-chloro-3-(4,5-dimethyl-1,3-thiazol-2-yl)phenyl]-4,4,4-trifluoro-3-oxobutaneamide
Ethyl trifluoroacetoacetate (2.54 g) is added to a solution of 2-(5-amino-2-chlorophenyl)-4,5-dimethyl-1,3-thiazole (2.20 g) in 110 ml of toluene; a catalytic amount of 4-dimethylaminopyridine is added, then the mixture is heated to 110° C. while distilling off the solvent. When reaction is complete, the residue is concentrated under vacuum; 3.80 g of product are obtained.

reactant | Ethyl trifluoroacetoacetate | 2.54 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
reactant | 2-(5-amino-2-chlorophenyl)-4,5-dimethyl-1,3-thiazole | 2.20 g | NC=1C=CC(=C(C1)C=1SC(=C(N1)C)C)Cl | C11H11ClN2S
solvent | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[4-chloro-3-(4,5-dimethyl-1,3-thiazol-2-yl)phenyl]-4,4,4-trifluoro-3-oxobutaneamide | 3.80 g | ClC1=C(C=C(C=C1)NC(CC(C(F)(F)F)=O)=O)C=1SC(=C(N1)C)C | C15H12ClF3N2O2S
